US09403835B2
Step 4: 2-[2-(tert-butyl-dimethyl-silanyloxy)-1-methyl-ethoxy]-benzaldehyde
Tert-butyl-chloro-dimethyl-silane (649 mg; 4.3 mmol; 1.1 eq.) was added to a solution of 2-(2-hydroxy-1-methyl-ethoxy)-benzaldehyde (705 mg; 3.91 mmol; 1 eq.), DIEA (867 μL; 4.69 mmol; 1.2 eq.) and 1H-imidazole (27 mg; 0.39 mmol; 0.1 eq.) in 1,4-dioxane (20 mL) and the resulting mixture was stirred at room temperature for 10 minutes. After dilution with EA, the solution was washed with sat. aq. NH4Cl (3×), dried over magnesium sulfate and concentrated in vacuo. Purification by column chromatography (20% to 50% EA in cyclohexane) to afford the title compound (690 mg, 60%) as a colourless oil. 1H NMR (300 MHz, DMSO-d6) δ 10.47-10.33 (m, 1H), 7.72-7.55 (m, 2H), 7.30 (d, J=8.5 Hz, 1H), 7.05 (t, J=7.5 Hz, 1H), 4.71 (d, J=4.2 Hz, 1H), 3.77 (dd, J=4.8, 2.1 Hz, 2H), 1.28 (d, J=6.2 Hz, 3H), 0.84-0.75 (m, 9H), 0.04-0.07 (m, 6H).

reactant | Tert-butyl-chloro-dimethyl-silane | 4.3 mmol, 649 mg, 1.1 eq. | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | 2-(2-hydroxy-1-methyl-ethoxy)-benzaldehyde | 3.91 mmol, 705 mg, 1 eq. | OCC(OC1=C(C=O)C=CC=C1)C | C10H12O3
reactant | DIEA | 4.69 mmol, 867 μL, 1.2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | 1H-imidazole | 0.39 mmol, 27 mg, 0.1 eq. | N1C=NC=C1 | C3H4N2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(tert-butyl-dimethyl-silanyloxy)-1-methyl-ethoxy]-benzaldehyde | 690 mg, 60% | C(C)(C)(C)[Si](OCC(OC1=C(C=O)C=CC=C1)C)(C)C | C16H26O3Si
